US07129237B2
7-chloro-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine
7-chloro-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione (15.05 g, 71.4 mmol) was stirred in THF (120 mL). Lithium aluminum hydride (1M solution in THF, 214.5 mL, 214.4 mmol) was added gradually. When the addition was completed, the reaction mixture was heated to 63° C. and held for 19 hours. After 19 hours, the reaction was cooled to room temperature, and then to 0° C. The reaction mixture was quenched with water, 15% NaOH and another portion of water. After letting the reaction mixture stir for one hour, the precipitate was filtered off and washed with ethyl acetate. THF was removed, and the contents of the reaction flask were transferred to a separatory funnel with ethyl acetate and water. The contents in the separatory funnel were then extracted with ethyl acetate (3×). The combined organic extracts were washed with brine (2×), then dried with magnesium sulfate, filtered and concentrated to give the crude desired product. Further purification by recrystallization (methylene chloride) yielded orange crystals.

reactant | 7-chloro-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 71.4 mmol, 15.05 g | ClC=1C=CC2=C(C(NCC(N2)=O)=O)C1 | C9H7ClN2O2
reactant | Lithium aluminum hydride | 214.4 mmol, 1M, 214.5 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 7-chloro-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine | ClC=1C=CC2=C(CNCCN2)C1 | C9H11ClN2
